US08541573B2
Step-2: (1-Benzyl-4-(4-cyclopropylpiperazin-1-yl)piperidin-4-yl)methanamine
To a cooled (0° C.) suspension of LAH (9.24 mmol, 3.0 equiv.) in THF (2 ml/mmol) was added dropwise conc. H2SO4 (4.62 mmol, 1.5 equiv.) in THF (1 ml/mmol) and the resulting suspension was stirred at room temperature for 1.5 h. A solution of 1-benzyl-4-(4-cyclopropylpiperazin-1-yl)piperidine-4-carbonitrile (3.08 mmol, 1.0 equiv.) in THF (2 ml/mmol) was added dropwise to the reaction mixture and it was heated to 50° C. for 12 h. The mixture was quenched with sodium sulfate solution, filtered through celite and washed with ethyl acetate. The organic layer was dried over sodium sulfate and the solvent was evaporated under reduced pressure to yield the desired product. Yield: 90%

reactant | LAH | 9.24 mmol, 3.0 equiv. | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | H2SO4 | 4.62 mmol, 1.5 equiv. | OS(=O)(=O)O | H2O4S
reactant | 1-benzyl-4-(4-cyclopropylpiperazin-1-yl)piperidine-4-carbonitrile | 3.08 mmol, 1.0 equiv. | C(C1=CC=CC=C1)N1CCC(CC1)(C#N)N1CCN(CC1)C1CC1 | C20H28N4
solvent | THF | C1CCOC1 | C4H8O
product | (1-Benzyl-4-(4-cyclopropylpiperazin-1-yl)piperidin-4-yl)methanamine | Yield: 90% | C(C1=CC=CC=C1)N1CCC(CC1)(N1CCN(CC1)C1CC1)CN | C20H32N4
